US07183436B2
26.6 g 4-bromoiodobenzene were placed in 150 ml diethylether and 47 ml 2.0 molar isopropyl magnesium chloride solution were added dropwise at ambient temperature. After one further hour, 18 g 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile, dissolved in 250 ml diethylether, were added dropwise and stirred overnight. To work up the mixture with ice cooling, 20 ml ammonium chloride solution (20% by weight) were added, extracted three times with 100 ml diethylether in each case, the combined organic phases were dried over sodium sulfate, filtered, concentrated and substantially freed of solvent residues under vacuum. The crude product (21.8 g) obtained was chromatographed with diethylether over silica gel. 7.49 g 4-(4-bromophenyl)-4-dimethylamino-1-phenethylcyclohexanol were obtained as a colorless liquid.

reactant | 4-bromoiodobenzene | 26.6 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | isopropyl magnesium chloride | 2.0 molar, 47 ml | C(C)(C)[Mg]Cl
reactant | 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 18 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | diethylether | 150 ml | C(C)OCC | C4H10O
solvent | diethylether | 250 ml | C(C)OCC | C4H10O
product | 4-(4-bromophenyl)-4-dimethylamino-1-phenethylcyclohexanol | 7.49 g | BrC1=CC=C(C=C1)C1(CCC(CC1)(O)CCC1=CC=CC=C1)N(C)C | C22H28BrNO
